* C:\Users\NAGARAJ V REDDY\Documents\NES\1SEM\NNMHA\Neuro-transistor-Simulation-with-Memristor-based-Memcapacitor-using-LTSPICE\src\task3\temp\task3.asc
Vin N001 0 PWL file=../task3_input.txt
XU1 N001 0 x dxdt MEM_NAMLAB
.tran 200
.param x0=100m
; Simulation Settings
; Simulation Settings
.lib .\MEM_NAMLAB.cir
.backanno
.end
